US08871756B2
3-[6-Chloro-2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]propane-1,2-diol
To a solution of 2-[6-chloro-4-(prop-2-en-1-yl)quinolin-2-yl]-2,3,4,5-tetrahydro-1H-2-benzazepine (20 mg, 0.057 mmol) in acetone (2 mL) and water (1 mL) was added N-methyl morpholine-N-oxide (50% in water, 15.5 mg, 0.057 mmol) followed by osmium tetroxide (0.14 mg, 0.0005 mmol). The resulting mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel (ethyl acetate/petroleum ether, 3:2) to give 14 mg of product as colorless oil. MS obsd. (ESI+) [(M+H)+] 383. 1H NMR (400 MHz, CD3OD) δ ppm 7.82 (d, J=2.0 Hz, 1 H), 7.58 (d, J=8.8 Hz, 1 H), 7.50 (d, J=6.8 Hz, 1 H), 7.40 (dd, J=9.2, 2.4 Hz, 1 H), 7.14-7.08 (m, 4 H), 4.84 (brs, 2 H), 4.21 (brs, 1 H), 4.10 (brs, 1 H), 3.91-3.88 (m, 1 H), 3.58-3.55 (m, 2 H), 3.21 (dd, J=14.0, 4.4 Hz, 1 H), 3.04 (d, J=6.4 Hz, 2 H), 2.87 (dd, J=14.0, 8.4 Hz, 1 H), 1.91-1.86 (m, 2 H).

reactant | 2-[6-chloro-4-(prop-2-en-1-yl)quinolin-2-yl]-2,3,4,5-tetrahydro-1H-2-benzazepine | 0.057 mmol, 20 mg | ClC=1C=C2C(=CC(=NC2=CC1)N1CC2=C(CCC1)C=CC=C2)CC=C | C22H21ClN2
reactant | N-methyl morpholine-N-oxide | 0.057 mmol, 15.5 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone | 2 mL | CC(=O)C | C3H6O
solvent | water | 1 mL | O | H2O
catalyst | osmium tetroxide | 0.0005 mmol, 0.14 mg | [Os](=O)(=O)(=O)=O
product | 3-[6-Chloro-2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]propane-1,2-diol | 14 mg | ClC=1C=C2C(=CC(=NC2=CC1)N1CC2=C(CCC1)C=CC=C2)CC(CO)O | C22H23ClN2O2
